US06107329
(2S)-Amino-1-(3-hydroxy-azetidin-1-yl)-3-phenyl-propan-1-one hydrochloride
[(1S)-Benzyl-2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester (515 mg, 1.6 mmol) was dissolved in cold 4N HCl-dioxane, the mixture stirred 2 h at 25° C., concentrated, and the residue coevaporated with ether giving a colorless solid (415 mg, 100%).

reactant | [(1S)-Benzyl-2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | 1.6 mmol, 515 mg | C(C)(C)(C)OC(N[C@H](C(=O)N1CC(C1)O)CC1=CC=CC=C1)=O | C17H24N2O4
reactant | HCl dioxane | 4N | Cl.O1CCOCC1
product | (2S)-Amino-1-(3-hydroxy-azetidin-1-yl)-3-phenyl-propan-1-one hydrochloride | Cl.N[C@H](C(=O)N1CC(C1)O)CC1=CC=CC=C1 | InChI=1S/C12H16N2O2.ClH/c13-11(6-9-4-2-1-3-5-9)12(16)14-7-10(15)8-14;/h1-5,10-11,15H,6-8,13H2;1H/t11-;/m0./s1
